US05180735
4-O-(chloroacetylcarbamoyl)-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylsulfinylmethyl-1,4-cyclohexanediol (300 mg) was dissolved in dichloromethane (2 ml), to which was added, under ice-cooling, m-chloroperbenzoic acid (179 mg), and the mixture was stirred for one hour. The reaction mixture was diluted with ethyl acetate (70 ml), which was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous saline solution, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by a silica gel column chromatography (carrier 15 g, developing solvent: ethyl acetate - hexane 2:1) to afford 4-O-(chloroacetylcarbamoyl)-2-(1,2-epoxy-1,5-dimethyl-4-h-exenyl)-3-methoxy-1-phenylsulfonylmethyl-1,4-cyclohexanediol (91 mg: yield 30%) as colorless powder.

reactant | 4-O-(chloroacetylcarbamoyl)-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-methylsulfinylmethyl-1,4-cyclohexanediol | 300 mg | ClCC(=O)NC(=O)OC1C(C(C(CC1)(O)CS(=O)C)C1(C(CC=C(C)C)O1)C)OC | C20H32ClNO7S
reactant | m-chloroperbenzoic acid | 179 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-O-(chloroacetylcarbamoyl)-2-(1,2-epoxy-1,5-dimethyl-4-h-exenyl)-3-methoxy-1-phenylsulfonylmethyl-1,4-cyclohexanediol | 91 mg, yield 30% | ClCC(=O)NC(=O)OC1C(C(C(CC1)(O)CS(=O)(=O)C1=CC=CC=C1)C1(C(CC=C(C)C)O1)C)OC | C25H34ClNO8S
